US05294612
A mixture of methyl 1-cyclopentyl-3-methylthio-5-amino-1H-pyrazole-4-carboxylate (3.0 g, 0.012 mol), 4-pyridine carboxamidine hydrochloride (1.9 g, 0.012 mol), potassium carbonate (1.6 g, 0.012 mol) and DMF (25 ml) were refluxed for 4 hours. Additional 4-pyridinecarboxamidine hydrochloride (1.9 g) and potassium carbonate (1.6 g) were added and the reaction mixture was refluxed for 24 hours. The solution was poured into ice-water, neutralized with acetic acid and the resulting precipitate was collected by filtration and washed with water. Recrystallization of the solid from DMF afforded 0.48 g (12%) of 1-cyclopentyl-3-methylthio-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one as a white powder, m.p. 272°-274° C. when dried at 110° C. for 16 hours in high vacuum.

reactant | methyl 1-cyclopentyl-3-methylthio-5-amino-1H-pyrazole-4-carboxylate | 0.012 mol, 3.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)OC)SC | C11H17N3O2S
reactant | 4-pyridine carboxamidine hydrochloride | 0.012 mol, 1.9 g | Cl.N1=CC=C(C=C1)C(=N)N
reactant | potassium carbonate | 0.012 mol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | 4-pyridinecarboxamidine hydrochloride | 1.9 g | Cl.N1=CC=C(C=C1)C(=N)N
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-methylthio-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one | 0.48 g, 12% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)SC | C16H17N5OS
